US09212182B2
A 40-mL vial containing 5-bromo-3-chloro-2-methylpyridine (185 mg, 0.896 mmol, purchased from Synthonix Inc.), potassium acetate (264 mg, 2.69 mmol), bis(pinacolato)diboron (250 mg, 0.986 mmol), and 1,1′-bis(diphenylphosphino)ferrocene palladium(II)dichloride dichloromethane adduct (36.6 mg, 0.045 mmol) was flushed with N2. Dioxane (4.5 mL) was added, and the orange slurry was stirred at 90° C. After 2.5 h, the resulting black slurry was cooled to rt, washed twice with brine, dried over Na2SO4, filtered, and concentrated in vacuo to afford 3-chloro-2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine as a black oil that was used with further purification. m/z (ESI) 254.1 (M+H)+.

reactant | 5-bromo-3-chloro-2-methylpyridine | 0.896 mmol, 185 mg | BrC=1C=C(C(=NC1)C)Cl | C6H5BrClN
reactant | potassium acetate | 2.69 mmol, 264 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.986 mmol, 250 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium(II)dichloride dichloromethane | 0.045 mmol, 36.6 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-chloro-2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | ClC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)C | C12H17BClNO2
